data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4415,5047,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([O+:8]=[C:9]([C:10](=[O:11])[O:12][CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([C:20](=[O:21])[O:22][CH3:23])[O:8][C:9]1([C:10](=[O:11])[O:12][CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,10.927125392527373,-55.0353531178356
3250,3673,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][CH:12]=[N+:13]([CH3:14])[N-:15][CH3:16]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:12]([CH3:11])[N:13]([CH3:14])[N:15]2[CH3:16],water,298.15,25.84810247634798,-17.797437823842056
4114,4709,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:10]=[N:11][C:12]1([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,16.89363549538102,-28.963777069057745
3162,3568,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C:8](=[NH+:9][NH-:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[NH:10][NH:9][C:8]1([C:6]([CH3:5])=[O:7])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,25.05367526218109,-17.753627238411255
4261,4875,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:21](=[O:22])[o:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]1([CH3:11])[NH:13][C:14]2([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:21](=[O:22])[O:23]1,water,298.15,28.86337336205229,14.095712150409836
4339,4960,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:21]([CH3:22])=[O:23],water,298.15,18.60514351876639,-11.276046929165329
918,994,[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2.[CH:11]#[N+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH:11]=[N:12][C:13]2([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,9.084989869810824,-53.96041419536675
4174,4777,[CH3:10][NH:11][C:12](=[O:13])[N-:14][O+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:14]([C:12]([NH:11][CH3:10])=[O:13])[O:15][CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,13.104531094969866,-29.15392998475747
2540,2820,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([O+:15]=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29](=[O:30])[NH:31][CH3:32].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:29](=[O:30])[NH:31][CH3:32])[O:15][C:16]2([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,24.247192491742965,-31.53219071958759
2818,3133,[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[CH2:27][CH2:28][CH2:29][CH2:30]1.[CH3:31][C:32](=[O:33])[C:34]([CH3:35])=[O+:36][C-:37]([C:38]#[N:39])[C:40]([CH3:41])=[O:42]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)([c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[CH2:27][CH2:28][CH2:29][CH2:30]1)[C:37]([C:38]#[N:39])([C:40]([CH3:41])=[O:42])[O:36][C:34]2([C:32]([CH3:31])=[O:33])[CH3:35],water,298.15,25.06883141527161,-44.17625321386319
2157,2392,[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23](-[c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[n+:30]1[CH3:31].[CH3:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:23]1([c:24]3[cH:25][cH:26][cH:27][cH:28][cH:29]3)[O:22][C:20](=[O:21])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[N:30]1[CH3:31],water,298.15,21.21924274968612,-11.686934115364798
